US05736539
1-tert-butoxycarbonyl-2(S)-n-butyl-4-(1-naphthoyl)piperazine
The title compound was prepared according to the procedure described in Example 1, Step A except using 1-tert-butoxycarbonyl-2(S)-n-butylpiperazine (0.325 g, 1.34 mmol), 1-naphthalene carboxylic acid (0.230 g, 1.34 mmol), HOBT (0.203 g, 1.34 mmol), EDC.HCl (0.254 g, 1.34 mmol) and triethylamine to adjust the pH to 7. The title compound was obtained as a thick oil (0.490 g).

reactant | 1-tert-butoxycarbonyl-2(S)-n-butylpiperazine | 1.34 mmol, 0.325 g | C(C)(C)(C)OC(=O)N1[C@H](CNCC1)CCCC | C13H26N2O2
reactant | 1-naphthalene carboxylic acid | 1.34 mmol, 0.230 g | C1(=CC=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | HOBT | 1.34 mmol, 0.203 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 1.34 mmol, 0.254 g | CCN=C=NCCCN(C)C.Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-tert-butoxycarbonyl-2(S)-n-butyl-4-(1-naphthoyl)piperazine | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(=O)C1=CC=CC2=CC=CC=C12)CCCC | C24H32N2O3
